US07560551B2
A resealable pressure bottle was charged with potassium carbonate (273 mg, 2.0 mmol), 1,4-dichlorophthalazine (590 mg, 3.0 mmol), piperidin-3-ol (200 mg, 2.0 mmol) and methylsulfinylmethane (10 mL, 0.2M). The vessel was sealed and the mixture stirred at 90° C. for 24 hrs. Next day the reaction was cooled to RT and diluted with 5 ml of DMSO. The solution was purified by Gilson reverse phase liquid chromatography (10% to 90% CH3CN/H2O/0.1% TFA) to afford 1-(4-chlorophthalazin-1-yl)piperidin-3-ol. MS m/z=264 [M+1]+. Calculated for C13H14ClN3O: 263.7.

reactant | potassium carbonate | 2.0 mmol, 273 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dichlorophthalazine | 3.0 mmol, 590 mg | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | piperidin-3-ol | 2.0 mmol, 200 mg | N1CC(CCC1)O | C5H11NO
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | methylsulfinylmethane | 0.2M, 10 mL | CS(=O)C | C2H6OS
product | 1-(4-chlorophthalazin-1-yl)piperidin-3-ol | ClC1=NN=C(C2=CC=CC=C12)N1CC(CCC1)O | C13H14ClN3O
